US04511724
Ethyl 1-(2-hydroxyethyl)-3-carboethoxy-4-methylpyrrole-2-acetate (101.7 g) in 800 ml of dry methylene chloride at -10° C. was treated with 56 ml of triethylamine followed by addition dropwise 31 ml of methanesulfonyl chloride. After 30 minutes of stirring at room temperature, 250 ml of water was added and the organic layer separated and washed with water (3×300 ml ), dried over Na2SO4 and evaporated under reduced pressure to yield 121.3 g of ethyl 1-(2-mesyloxyethyl)-3-carboethoxy-4-methyl-pyrrole-2-acetate as white crystals from ethylacetate hexane, m.p. 66°-68° C.

reactant | Ethyl 1-(2-hydroxyethyl)-3-carboethoxy-4-methylpyrrole-2-acetate | 101.7 g | OCCN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C14H21NO5
reactant | triethylamine | 56 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 31 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 250 ml | O | H2O
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1-(2-mesyloxyethyl)-3-carboethoxy-4-methyl-pyrrole-2-acetate | 121.3 g | S(=O)(=O)(C)OCCN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C15H23NO7S
